US05998433
b) Synthesis of (E)-N,N-dimethyl-[6-(2,3-diphenylpropenoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
(E)-N,N-Dimethyl-[6-(2,3-diphenylpropenoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.509 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated and washed with diethyl ether to yield the desired product.

reactant | (E)-N,N-Dimethyl-[6-(2,3-diphenylpropenoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.509 g | CN(C)CC1=CC2=C(CN(CC2)C(\C(=C\C2=CC=CC=C2)\C2=CC=CC=C2)=O)O1 | C25H26N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-N,N-dimethyl-[6-(2,3-diphenylpropenoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(\C(=C\C2=CC=CC=C2)\C2=CC=CC=C2)=O)O1 | InChI=1S/C25H26N2O2.ClH/c1-26(2)17-22-16-21-13-14-27(18-24(21)29-22)25(28)23(20-11-7-4-8-12-20)15-19-9-5-3-6-10-19;/h3-12,15-16H,13-14,17-18H2,1-2H3;1H/b23-15+;
